US07723336B2
The mixture of 6-Chloro-5-ethylpyridazin-3-amine and chloro-4-ethylpyridazin-3-amine (3.50 g, 0.022 mol) from 1b and NaHCO3 (3.73 g, 0.044 mol, 2 eq) were suspended in MeOH (20 mL) and treated with Br2 (1.25 mL, 0.024 mol). The mixture was stirred at room temperature for 24 h, then filtered. The filtrate was condensed in vacuo. The resulting residue was resuspended in EtOAc (100 mL) and washed sequentially with sat. aqueous NaHCO3 solution (2×20 mL) and aqueous NaCl solution (1×20 mL). The solution was dried over sodium sulfate. The solvent was removed in vacuo to give crude 4-bromo-6-chloro-5-ethylpyridazin-3-amine. LC/MS, m/e 236 (M+1). HPLC Rt, 2.15 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-Chloro-5-ethylpyridazin-3-amine | ClC1=C(C=C(N=N1)N)CC | C6H8ClN3
reactant | chloro-4-ethylpyridazin-3-amine | 0.022 mol, 3.50 g | ClC=1C(=C(N=NC1)N)CC | C6H8ClN3
reactant | NaHCO3 | 0.044 mol, 3.73 g, 2 eq | C(=O)(O)[O-].[Na+]
reactant | Br2 | 0.024 mol, 1.25 mL | BrBr | Br2
solvent | MeOH | 20 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-6-chloro-5-ethylpyridazin-3-amine | BrC1=C(N=NC(=C1CC)Cl)N | C6H7BrClN3
